US04968790
2,5-Anhydro-2-C-(hydroxymethyl)-3,4-bis-O-(phenylmethyl)-D-glucitol
A 1.7 g portion of 2-C-[(acetyloxy)methyl]-2,5-anhydro-3,4-bis-O-(phenylmethyl)-D-glucitol, 1,6-diacetate was treated with 1.6 g of potassium carbonate, 10 ml of water and 8.5 ml of methanol and the mixture heated at reflux for 40 minutes and then evaporated. The residue was taken up in ether/water. The water layer was extracted twice with ether. All ether layers were combined, washed with brine, dried and evaporated. The residual oil was flash chromatographed, eluting with 4% methanol in dichloromethane, giving 1.0 g of the desired compound.

reactant | 2-C-[(acetyloxy)methyl]-2,5-anhydro-3,4-bis-O-(phenylmethyl)-D-glucitol | C(C)(=O)OC[C@]1(CO)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)CO | C23H28O7
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | methanol | 8.5 ml | CO | CH4O
product | 2,5-Anhydro-2-C-(hydroxymethyl)-3,4-bis-O-(phenylmethyl)-D-glucitol | 1.0 g | OCC1(CO)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)CO | C21H26O6
